US07696223B2
c) 4-[(tert-Butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-2-(methyl-phenyl-amino)-thiazole-5-carboxylic acid ethyl ester
A mixture of 4-bromomethyl-2-(methyl-phenyl-amino)-thiazole-5-carboxylic acid ethyl ester (974 mg, 2.75 mmol), tert-butoxycarbonylamino-acetic acid ethyl ester (559 mg, 2.75 mmol) and sodium hydride (60% in mineral oil, 132 mg, 3.30 mmol) in anhydrous dimethylformamide (10 mL) was stirred at 0° C. for two hours and room temperature for 18 h before it was quenched with brine. It was partitioned between ethyl acetate and water. The organic layer was washed with water, brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and hexanes to give the title compound as a yellow oil (652 mg): MS: (+) m/z 500.0 (M+Na+).

reactant | 4-bromomethyl-2-(methyl-phenyl-amino)-thiazole-5-carboxylic acid ethyl ester | 2.75 mmol, 974 mg | C(C)OC(=O)C1=C(N=C(S1)N(C1=CC=CC=C1)C)CBr | C14H15BrN2O2S
reactant | tert-butoxycarbonylamino-acetic acid ethyl ester | 2.75 mmol, 559 mg | C(C)OC(CNC(=O)OC(C)(C)C)=O | C9H17NO4
reactant | sodium hydride | 3.30 mmol, 132 mg | [H-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-[(tert-Butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-2-(methyl-phenyl-amino)-thiazole-5-carboxylic acid ethyl ester | 652 mg | C(C)OC(=O)C1=C(N=C(S1)N(C1=CC=CC=C1)C)CN(CC(=O)OCC)C(=O)OC(C)(C)C | C23H31N3O6S
